US08492582B2
Potassium acetate (1.4 g), bis(pinacolato)diboron (1.5 g), and (1,1′-bis(diphenylphosphino)ferrocene)palladium(II) dichloride methylene chloride complex (0.20 g) were sequentially added to a dioxane (25 mL) suspension of tert-butyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate (2.5 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Biotage AB, KP-Sil, eluent: 95-50% hexane/ethyl acetate] to obtain 1.4 g of tert-butyl 2-(2-acetoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | Potassium acetate | 1.4 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tert-butyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate | 2.5 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C26H24BrNO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 2-(2-acetoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-4-phenylbenzoate | 1.4 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C32H36BNO7
